US05834468
A solution of sieve dried di-isopropylamine (3.24 g, 32 mM) in THF (20 ml) was cooled to -50° C. under argon and treated with n-butyl lithium (1.6M in hexrine, 19.2 ml). A suspension of 2-methyl nicotinic acid (2.0 g, 14.6 mmol) in THF (70 ml) was added slowly by syringe to the reaction mixture. A deep red/purple colour developed. The reaction was stirred for 0.75 hours allowing the temperature to rise to -40° C. The reaction was cooled to -60° C. A solution of benzaldehyde (1.86 g, 17.52 mmol) in THF (10 ml) was added dropwise keeping the temperature below -60° C. The colour of the reaction discharged to pale yellow within 15 minutes. The cooling bath was removed and the reaction was allowed to warm to 0° C. and was held at 0° C. for 18 hours. Water was added and the reaction acidified to pH2 with 1N HCl and extracted with EtOAc. The pH of the aqueous phase was adjusted to pH5 and re-extracted with EtOAc. The organic layers were combined, dried (56 mg) and evaporated. The resulting pale yellow oil was purified by chromatography eluting with (methanol/dichloromethane) to give 2-phenyl-8-oxopyrano[4,3-b]pyridine as a yellow oil (1.5 g) MS (CI+): 226 [M+H]+.

reactant | di-isopropylamine | 32 mM, 3.24 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6M, 19.2 ml | C(CCC)[Li]
reactant | 2-methyl nicotinic acid | 14.6 mmol, 2.0 g | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | benzaldehyde | 17.52 mmol, 1.86 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | THF | 70 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-phenyl-8-oxopyrano[4,3-b]pyridine | 1.5 g | C1(=CC=CC=C1)C1=CC=C2C(=N1)C(COC2)=O | C14H11NO2
